US08071607B2
Compound 36A. 1-Methyl-1H-imidazole-2-carboxylicacid[4-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide
Title compound 11A, 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (30 mg, 1.1 eq, 0.13 mmol) was added to a solution 1-methyl-1H-imidazole-2-carboxylic acid (15 mg, 1.0 eq, 0.12 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (20 mg, 1.1 eq, 0.13 mmol), 1-hydroxybenzotriazole (16 mg, 1.0 eq, 0.12 mmol) in DMF (1 ml) which had been stirred for 10 minutes under an inert atmosphere. The reaction was stirred at room temperature for 18 hours, after which methanol (1 ml) was added, and the solvents were removed in vacuo. The residue was then triturated with methanol and the resultant solid was isolated by filtration to yield the title compound as a yellow solid (14 mg, 0.04 mmol, 35%). LCMS: [M+H]+=335, Rt=1.44 min, 100% purity.

reactant | 1-(4-amino-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.13 mmol, 30 mg, 1.1 eq | NC1=CC=C(C=C1)N1N=CC=2C1=NC=NC2N | C11H10N6
reactant | 1-methyl-1H-imidazole-2-carboxylic acid | 0.12 mmol, 15 mg, 1.0 eq | CN1C(=NC=C1)C(=O)O | C5H6N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.13 mmol, 20 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.12 mmol, 16 mg, 1.0 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | 1-Methyl-1H-imidazole-2-carboxylicacid[4-(4-amino-pyrazolo[3,4-d]pyrimidin-1-yl)-phenyl]-amide | 0.04 mmol, 14 mg, 35% | NC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)NC(=O)C=2N(C=CN2)C | C16H14N8O
